US07872031B2
A solution of ethyl-2-(1-(5-bromo-2-chloropyridin-3-yl)-2-(2,3-dichlorophenyl)ethylidene)hydrazinecarboxylate (3.03 mmol) was stirred in thionyl chloride (20 mL). The solution was heated from 0° C. to RT and stirred for 3.5 hours. The solvent was evaporated to give a yellow oil which was adsorbed onto Celite™ and purified by silica gel chromatography (5-40% EtOAc/hexanes) to give 5-bromo-2-chloro-3-(5-(2,3-dichlorophenyl)-1,2,3-thiadiazol-4-yl)pyridine as a yellow solid (640 mg, 50% yield over 2 steps).

reactant | ethyl-2-(1-(5-bromo-2-chloropyridin-3-yl)-2-(2,3-dichlorophenyl)ethylidene)hydrazinecarboxylate | 3.03 mmol | C(C)OC(=O)NN=C(CC1=C(C(=CC=C1)Cl)Cl)C=1C(=NC=C(C1)Br)Cl | C16H13BrCl3N3O2
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
product | 5-bromo-2-chloro-3-(5-(2,3-dichlorophenyl)-1,2,3-thiadiazol-4-yl)pyridine | 50% yield | BrC=1C=C(C(=NC1)Cl)C=1N=NSC1C1=C(C(=CC=C1)Cl)Cl | C13H5BrCl3N3S
